US06858651B2
g (2.7 mmol) trans-3-{4-[Methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexyloxy}-propionic acid in 30 ml CH2Cl2 were treated with 2 ml (4.0 mmol, 1.5 eq) 2M dimethylamine in THF and 0.44 ml (4.03 mmol, 1.5 eq) NMM. The solution was cooled to 0° C. and 670 mg (3.5 mmol, 1.3 eq) EDCI and 82 mg (5.4 mmol, 0.2 eq) HOBT were added. The mixture was stirred at RT over night, partitioned between CH2Cl2 and a saturated aqueous solution of NaHCO3. The organic phase was washed with KHSO4 and brine, dried over Na2SO4 and evaporated. Column chromatography with EtOAc gave 1.06 g (90%) trans-N,N-Dimethyl-3-{4-[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexyloxy}-propionamide as white solid, mp 88° C., MS: 437 (MH+).

reactant | trans-3-{4-[Methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexyloxy}-propionic acid | 2.7 mmol | CN([C@@H]1CC[C@H](CC1)OCCC(=O)O)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C17H22F3NO5S
reactant | dimethylamine | 4.0 mmol, 2M, 2 ml, 1.5 eq | CNC | C2H7N
reactant | NMM | 4.03 mmol, 0.44 ml, 1.5 eq | CN1CCOCC1 | C5H11NO
reactant | EDCI | 3.5 mmol, 670 mg, 1.3 eq | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 5.4 mmol, 82 mg, 0.2 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
product | trans-N,N-Dimethyl-3-{4-[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexyloxy}-propionamide | 1.06 g, 90% | CN(C(CCO[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)=O)C | C19H27F3N2O4S
